Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Penicillins / Levaquin
 
Attending: ___.
 
Chief Complaint:
Right hand ischemia, arm pain
 
Major Surgical or Invasive Procedure:
___: Venogram, thrombectomy (TPA), angioplasty
 
History of Present Illness:
___ year old female with PMH of DM, HTN and obesity, ESRD with HD 
through Right upper arm ___ transferred to ___ from ___ 
___. Patient was in her usual state of health and went to 
her scheduled dialysis appointment. Per records at the dialysis 
center, HD was started at 1700 and stopped at ___ when patient 
complained of severe pain in the right hand and was noted to 
have cyanosis and faint radial pulse. Patient was sent to 
___ initially where per record, patient was 
started on Heparin gtt at 15 mg/kg/h
with prior bolus of 950 Units. Per patient her cyanosis improved 
significantly, whereas prior she had purple discoloration 
involving entire right hand, which is now present in the tips of 
her fingers. She complains of pain below anterocubital fossa and 
ulnar aspect of the arm as well as numbness of the fingertips. 
She is transferred to ___ for further evaluation. Of note, the 
fistula was not created at this institution.

 
Past Medical History:
Obesity, HTN, DM , ESRD

PSH: R Brachio-Cephalic AVF placed ___ years ago at ___, Cholecystectomy, Gastric Bypass.

 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
Physical Exam on Admission:
VS: Temp: 98.9 HR: 118 BP: 103/60 Resp: 18 O(2)Sat: 97 Normal
Weight 123 KG
Gen: A&O, NAD
HEENT: Pupils equal, round and reactive to light, Extraocular 
muscles intact, Hydrated.
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, no murmurs ascultated
Abdominal: Soft, Nontender, Nondistended
Extr: Right arm: AVF in upper arm, possible brachia-cephalic
fistula, AVF with pulse, No thrill palpated. Faint bruit in the 
distal aspect of the fistula. Patient complains of pain of ulnar 
aspect of the forearm, Radial pulse palpable 2+, cyanosis of the 
finger tips.
Sensation and propioception intact, Strength ___, complains of 
pain
at closing right hand. Intact movements of fingers
Hand Assessment: Right hand skin intact, pink throughout with 
faint blue color at tips of long and ring finger.  Brisk cap 
refill all fingertips. 
SILT througout hand with no motor weakness.  2+ radial pulse. 
AVF
site unremarkable.

Discharge Physical Exam:
Vitals: T 98.6, HR 78, BP 95/51, RR 14, O2 98% RA
Gen: A&O, NAD
CV: RRR
Pulm: CTAB
Abd: S/NT/ND
Ext: RUE with AV fistula, palpable pulse with thrill and postive 
bruit. Right hand warm and pink with 2+ radial pulse. Adequate 
cap refill. Pt notes decreased sensation over fingertips. No 
cyanosis of hand or fingers.

 

 
Pertinent Results:
Labs on Admission: ___
WBC-11.8* RBC-3.86* Hgb-12.6 Hct-39.2 MCV-102* MCH-32.6* 
MCHC-32.1 RDW-13.9 Plt ___ PTT-150* ___
Glucose-128* UreaN-22* Creat-6.5* Na-132* K-4.1 Cl-91* HCO3-22 
AnGap-23*
Calcium-9.1 Phos-5.1* Mg-2.1

___ 06:10AM BLOOD WBC-7.4 RBC-3.70* Hgb-12.1 Hct-38.1 
MCV-103* MCH-32.6* MCHC-31.7 RDW-14.0 Plt ___
___ 06:10AM BLOOD ___ PTT-81.7* ___
___ 06:10AM BLOOD Glucose-98 UreaN-26* Creat-7.1* Na-134 
K-4.0 Cl-90* HCO3-28 AnGap-20
___ 06:10AM BLOOD Calcium-9.1 Phos-5.1* Mg-2.1

___ 05:40AM BLOOD WBC-8.5 RBC-3.35* Hgb-11.1* Hct-34.8* 
MCV-104* MCH-33.1* MCHC-31.8 RDW-14.0 Plt ___
___ 05:40AM BLOOD ___ PTT-150* ___
___ 05:40AM BLOOD Glucose-97 UreaN-35* Creat-9.1*# Na-130* 
K-4.2 Cl-91* HCO3-24 AnGap-19

 
Brief Hospital Course:
The patient was admitted to the transplant surgery service. 
Serial exams were performed. She was maintained on a heparin 
drip and this was titrated to a therapeutic PTT range. She was 
kept on bowel rest in preparation for intervention. On HD #2 she 
went to interventional radiology where a fistulagram was 
performed of the right upper extremity fistula. This 
demonstrated multiple areas of stenosis within the fistula as 
well as stensois centrally that were balloon dilated. In 
addition, there was fair amount of clot burden that was 
thrombectomized as well. There was no obstruction distally by 
arteriogram. The patient was transferred back to the floor 
without incidence. Post-procedure check demonstrated positive 
thrill and bruit with palpable radial pulse. The fingertips were 
pink and warm though the patient did note persistent numbness in 
the fingertips likely from distal emboli. Hand surgery was 
consulted and recommended no further anticoagulation needs. The 
heparin drip was discontinued and her diet was advanced to 
regular which she tolerated. 
Hemodialysis was attempted on HD 3. Initially when needles were 
placed, there was high venous pressure with minimal bloodflow. A 
new needle placement was attempted and clots were present in the 
fistula needle, so the dialysis treatment attempt was 
terminated. The hand remained well perfused with good distal 
pulses although there was mottling in the hand.
She was taken back to ___ on HD 4, and venogram demonstrated 
reoccurence of the distal stenosis near the venous anastomsis, 
this was again angioplastied, however the radiologist felt this 
was not a satisfactory place to place a stent due to 
interference with dialysis needle placement in the future. Clot 
was removed as well. The hand pain and numbness resolved. 
On HD 5 she returned for HD. Initially access was obtained 
through the distal buttonhole, however, there was high 
resistance to venous outflow. A new needle was placed distally 
and the high venous pressures resolved and the patient was able 
to complete dialysis without complication. She remained afebrile 
with stable vital signs. She was discharged to home. She was 
given information for follow up in the ___ or she 
will follow up with her prior access ___ further cares. 
 
Medications on Admission:
Nephrocap 1', Omeprazole 40', Phoslo (unknown dose),
Remeron 45 ;, Tylenol + Codeine #3 before dialysis due to back 
pain. 
___ 50000u QW.  

 
Discharge Medications:
1. mirtazapine 15 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
2. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. acetaminophen-codeine 300-30 mg Tablet Sig: One (1) Tablet PO 
Q4H (every 4 hours) as needed for back pain .  
5. calcium acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
8. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
9. pramoxine-mineral oil-zinc ___ % Ointment Sig: One (1) 
Appl Rectal BID (2 times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right hand ischemia secondary to fistula occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for hand pain. You were found 
to have a clot and areas of narrowing in your fistula. This was 
opened up by the interventional radiologists twice. You have 
improved and are ready for discharge. Continue your home 
medications. Call Dr. ___ at ___ or Dr. ___ 
worsening hand pain, numbness/tingling, cold or blue 
hand/fingers, sores developing on the fingers, or any other 
concerns.
Avoid caffeine (coffee, soda, energy drinks) or nicotine as 
these can narrow the blood vessels.

 
Followup Instructions:
___